US08957073B2
3-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzamide
A mixture of 3-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzonitrile (0.072 g, 0.198 mmol), potassium hydroxide (0.111 g, 1.981 mmol, v/w) and t-BuOH (2 mL, Acros) was heated at 80° C. overnight. LCMS showed the product. The mixture was diluted with water and extracted with a mixture of CHCl3:i-PrOH (3:1) three times. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The product was obtained as a white solid (75 mg, 99%).

reactant | 3-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzonitrile | 0.198 mmol, 0.072 g | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)C=1C=C(C#N)C=CC1 | C23H17N5
reactant | potassium hydroxide | [OH-].[K+]
reactant | t-BuOH | 2 mL | CC(C)(C)O | C4H10O
solvent | water | O | H2O
product | 3-(3-(1-(quinolin-2-yl)azetidin-3-yl)pyrazin-2-yl)benzamide | 75 mg, 99% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C=1C(=NC=CN1)C=1C=C(C(=O)N)C=CC1 | C23H19N5O
